US04206310
To a CH2Cl2 (2ml) solution of 2-chloro-1-ethyl-4-methoxypryridinium tetrafluoroborate (296 mg, 1.2 mmol) was added a mixture of benzyl alcohol (108 mg, 1.0 mmol), phenylacetic acid (136 mg, 1.0 mmol) and triethylamine (243 mg, 2.4 mmol) in CH2Cl2 (2 ml), and the resulting mixture was refluxed for 3 hours. After evaporation of the solvent, the residue was separated by silica gel column chromatography, and benzyl phenylacetate was isolated in 95% yield.

reactant | benzyl alcohol | 1.0 mmol, 108 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | phenylacetic acid | 1.0 mmol, 136 mg | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | triethylamine | 2.4 mmol, 243 mg | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2ml | C(Cl)Cl | CH2Cl2
product | benzyl phenylacetate | 95% yield | C1(=CC=CC=C1)CC(=O)OCC1=CC=CC=C1 | C15H14O2
